US04454320
5-Hydroxy-5-(3-thienyl)-2,4,6(1H,3H,5H)pyrimidinetrione (1.16 g., 5.1 mmoles) was dissolved in 1 N sodium hydroxide (11 ml., 11 mmoles) and allowed to stand at room temperature for 15 minutes. The solution was acidified with acetic acid, and product allowed to crystallize over 35 minutes. Filtration gave 5-(3-thienyl)oxazolidine-2,4-dione (480 mg., 51%; m.p. 133°-135° C.). An additional crop of product was obtained by extracting the mother liquor with ethyl acetate. The extract was back washed with water, and evaporated to dryness (80 mg., contaminated with starting material).

reactant | 5-Hydroxy-5-(3-thienyl)-2,4,6(1H,3H,5H)pyrimidinetrione | 5.1 mmoles, 1.16 g | OC1(C(NC(NC1=O)=O)=O)C1=CSC=C1 | C8H6N2O4S
reactant | sodium hydroxide | 11 mmoles, 1 N, 11 ml | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-(3-thienyl)oxazolidine-2,4-dione | 480 mg, 51% | S1C=C(C=C1)C1C(NC(O1)=O)=O | C7H5NO3S
